US06884774B2
To a solution of 1,4-dioxaspiro[4.5]decan-8-ol (9.5 g) in N,N-dimethylformamide (200 ml) was added portionwise sodium hydride (abt. 60% oil suspension) (2.6 g) under ice-cooling and nitrogen atmosphere. After stirring for 2 hours at room temperature, the reaction mixture was stirred for 1 hour at 60° C. To the reaction mixture was added a solution of 7-methoxyheptyl 4-methylbenzenesulfonate (15.0 g) in N,N-dimethylformamide (50 ml) at 60° C. and then the reaction mixture was stirred for 2 hours at 60° C. After being cooled to room temperature, the reaction mixture was poured into a mixture of ethyl acetate and water. The organic layer was successively washed with water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (10:1→5:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give 8-(7-methoxyheptyloxy)-1,4-dioxaspiro[4.5]decane (9.77 g).

reactant | 1,4-dioxaspiro[4.5]decan-8-ol | 9.5 g | O1CCOC12CCC(CC2)O | C8H14O3
reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | 7-methoxyheptyl 4-methylbenzenesulfonate | 15.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCOC | C15H24O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-(7-methoxyheptyloxy)-1,4-dioxaspiro[4.5]decane | 9.77 g | COCCCCCCCOC1CCC2(OCCO2)CC1 | C16H30O4
